US06348474B1
Methyl 3-(2-chloro-4-(methylsulfinyl)benzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate
To a solution of methyl 3-(2-chloro-4-(methylthio)benzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate (148 mg) in dichloromethane (2.8 ml) was added m-chloroperbenzoic acid (81 mg) under ice-cooling, and the mixture was stirred for 1 hr. The reaction mixture was diluted with chloroform, washed successively with a saturated aqueous sodium hydrogencarbonate solution and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated, and acetonitrile was added to the residue for crystallization, whereby the objective compound (118 mg) was obtained as a white powder.

reactant | methyl 3-(2-chloro-4-(methylthio)benzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 148 mg | ClC1=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=CC(=C1)SC | C17H16ClN3O2S
reactant | m-chloroperbenzoic acid | 81 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 2.8 ml | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Methyl 3-(2-chloro-4-(methylsulfinyl)benzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | ClC1=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=CC(=C1)S(=O)C | C17H16ClN3O3S
